US05998398
A solution of 3-cyclopentene-1-carboxylic acid (Depres and Greene, J. Org. Chem. 1962, 27:2395-2398) (30.5 g, 0.272 mole) in dry benzene (360 mL) was stirred while a solution of diphenylphosphoryl azide (Aldrich, 74.85 g, 0.272 mole as 97%) and triethylamine (41.7 mL, 0.299 mole) in benzene (130 mL) was added over 20 minutes. The solution was refluxed for 2 hours and then benzyl alcohol (32.4 mL, 0.313 mole) was added. The solution was refluxed for 20 hours, cooled, and concentrated in vacuo to a brown oil. A solution of the oil in ethyl acetate (600 mL) was washed with 0.5 N hydrochloric acid (300 mL), then water (2×350 mL), then saturated aqueous sodium bicarbonate (300 mL), and dried (sodium sulfate). Evaporation left title compound as white solid (41.0 g, 69%), 1H-NMR consistent with structure. Recrystallization of such a sample from ethyl acetate-hexanes gave benzyl N-(3-cyclopenten-1-yl)carbamate as colorless waxy crystals, m.p. 56-57° C.

reactant | 3-cyclopentene-1-carboxylic acid | 0.272 mole, 30.5 g | C1(CC=CC1)C(=O)O | C6H8O2
reactant | diphenylphosphoryl azide | 0.272 mole, 74.85 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.299 mole, 41.7 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 0.313 mole, 32.4 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 360 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 130 mL | C1=CC=CC=C1 | C6H6
product | benzyl N-(3-cyclopenten-1-yl)carbamate | C1(CC=CC1)NC(OCC1=CC=CC=C1)=O | C13H15NO2
